US05665718
0.55 g (3.2 mmol) of chloroacetic anhydride was added under argon to a suspension of 0.90 g (2.9 mmol) of (E)- and/or (Z)-3-(aminohydroximino-methyl)-8-chloro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 9 ml of dimethylformamide and the mixture was stirred at about 25° for 1 hr. and thereupon heated to 110° for 1 hr. The solution was evaporated in a high vacuum and the brown residue was taken up in 50 ml of methylene chloride. The solution was washed three times with 10 ml of saturated sodium hydrogen carbonate solution and the solvent was removed in a vacuum. The crude material was chromatographed on 30 g of silica gel (methylene chloride/acetone 9:1). There was obtained 0.76 g (71%) of 8-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as almost colourless crystals of m.p. 229° (acetonitrile).

reactant | chloroacetic anhydride | 3.2 mmol, 0.55 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | (Z)-3-(aminohydroximino-methyl)-8-chloro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | N\C(\C=1N=CN2C1CN(C(C1=C2C=CC(=C1)Cl)=O)C)=N/O | C13H12ClN5O2
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | 8-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.76 g, 71% | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CCl)C)=O)C1 | C15H11Cl2N5O2
